US07407961B2
2-Methoxybromopyridine (25 g) and n-butyl vinyl ether (66.6 g) were dissolved in DMF (250 ml). To the solution were added 1,3-bis(diphenylphosphino)propane (3.62 g) and Pd(OAc)2 (896 mg) and aq. K2CO3 under nitrogen atmosphere. The reaction mixture was stirred for 2 hours at 100-120° C. The mixture was cooled to 25° C. To the solution was added 1N aq. HCl (625 ml). The solution was stirred for 1 hour at 25-30° C. The solution was portioned to EtOAc and water. The organic layer was separated. The aqueous layer was extracted with EtOAc. The combined organic solution was washed with water and brine, and dried over MgSO4. Evaporation of solvent in vacuo gave oily residue. The residue was purified by chromatography on silica gel (EtOAc:n-Hexane=1:5, v/v) to give 2-methoxy-5-acetylpyridine as a solid (12.14 g).

reactant | 2-Methoxybromopyridine | 25 g | COC1=NC=CC=C1Br | C6H6BrNO
reactant | n-butyl vinyl ether | 66.6 g | C(=C)OCCCC | C6H12O
reactant | 1,3-bis(diphenylphosphino)propane | 3.62 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1N, 625 ml | Cl | ClH
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 896 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-methoxy-5-acetylpyridine | 12.14 g | COC1=NC=C(C=C1)C(C)=O | C8H9NO2
